US06884821B1
334 mg of ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-[(trifluoromethyl)sulfonyl]oxyphenyl)-2-isopropoxypropionate was dissolved in 4 ml dioxane. 280 mg of 2-tributylstannylfuran, 75 mg of tetrakistriphenylphosphine palladium and 83 mg of lithium chloride were added thereto, followed by stirring overnight at 80° C. in a nitrogen atmosphere. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography, to give 180 mg of ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-[(trifluoromethyl)sulfonyl]oxyphenyl)-2-(2-furyl)propoxypropionate from fractions eluted with hexane-ethyl acetate (7:1).

reactant | ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-[(trifluoromethyl)sulfonyl]oxyphenyl)-2-isopropoxypropionate | 334 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)CC(C(=O)OCC)OC(C)C | C21H30F3NO8S
reactant | 2-tributylstannylfuran | 280 mg | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | lithium chloride | 83 mg | [Cl-].[Li+]
reactant | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-[(trifluoromethyl)sulfonyl]oxyphenyl)-2-(2-furyl)propoxypropionate | 180 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)CC(C(=O)OCC)OCC(C)C=1OC=CC1 | C25H32F3NO9S
